US05389641
a) 2'-cyanomethoxy-4-methylbenzophenone
To a stirred solution of 2'-hydroxy-4-methylbenzophenone (9 g), potassium iodide (8.46 g) and potassium carbonate (8.79 g) in DMF (200 ml) was added chloroacetonitrile (3.85 g) and the mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated to dryness. After the addition of water, the mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give pale brown syrup (8.9 g, 84%).

reactant | 2'-hydroxy-4-methylbenzophenone | 9 g | OC1=C(C=CC=C1)C(C1=CC=C(C=C1)C)=O | C14H12O2
reactant | potassium iodide | 8.46 g | [I-].[K+]
reactant | potassium carbonate | 8.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 3.85 g | ClCC#N | C2H2ClN
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2'-cyanomethoxy-4-methylbenzophenone | 8.9 g, 84% | C(#N)COC1=C(C=CC=C1)C(C1=CC=C(C=C1)C)=O | C16H13NO2
